US05043439
Diphenylmethyl 7-Phenoxyacetamido-3-(2-benzothiazolylthio)ceph-3-em-4-carboxylate.
To a solution of 2-mercaptobenzothiazole (0.26 g. 1.54 mmol) in dry tetrahydrofuran (5.0 ml) at -78° C. was added sodium hydride (98%) (0.0369 g. 1.54 mmol). followed by diphenylmethyl 7-phenoxyacetamido-3-(trifluoromethylsulfonyloxy)-3-cephem-4-carboxylate (1.0 gm, 1.54 mmol). The reaction was warmed up to -20° C. and stirred for 16 hours before quenching in 0.5 N solution of hydrochloric acid (5 ml). The aqueous layer was extracted with dichloromethane (3×5 ml), dried (magnesium sulfate) and evaporated in vacuo to give the title compound as an oil which was purified by flash chromatography (silica, 40% ethylacetate in haxanes); yield isolated 0.7 g (70%).

reactant | 2-mercaptobenzothiazole | 1.54 mmol, 0.26 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | sodium hydride | 1.54 mmol, 0.0369 g | [H-].[Na+]
reactant | diphenylmethyl 7-phenoxyacetamido-3-(trifluoromethylsulfonyloxy)-3-cephem-4-carboxylate | 1.54 mmol, 1.0 gm | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H23F3N2O8S2
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | Diphenylmethyl 7-Phenoxyacetamido-3-(2-benzothiazolylthio)ceph-3-em-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)SC=2SC3=C(N2)C=CC=C3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C35H27N3O5S3
